US05866573
Step B: 2-(3-Pyridyl)-1-propylamine
To a solution of 2-(3-pyridyl)-1-nitropropane (0.91 g, 5.48 mmol) in 20 mL of ethanol and 0.1 mL of 12N HCl was added 10% Pd/C (1.00 g) under argon. The solution was evacuated and flushed with hydrogen several times, place under an atmosphere of hydrogen and vigorously stirred. After 14 h the mixture was evacuated and flushed with argon several times, filtered through celite and washed with 200 mL of ethanol. The volatiles were removed in vacuo to provide a residue which was partitioned between methylene chloride (100 mL) and NaOH (50 mL, 10%) and the aqueous layer was extracted with methylene chloride (2×100 mL). The combined organic layers were dried over MgSO4, filtered, concentrated in vacuo and the residue was purified by flash column chromatography (20×150 mm column of SiO2, CH2Cl2 /CH2Cl2 saturated with NH3 /MeOH 60:39:1) to give the title compound as an oil:

reactant | 2-(3-pyridyl)-1-nitropropane | 5.48 mmol, 0.91 g | N1=CC(=CC=C1)C(C[N+](=O)[O-])C | C8H10N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | HCl | 12N, 0.1 mL | Cl | ClH
catalyst | Pd/C | 1.00 g | [Pd] | Pd
product | 2-(3-Pyridyl)-1-propylamine | N1=CC(=CC=C1)C(CN)C | C8H12N2
